### PR TITLE
Rice's theorem

### PR DESCRIPTION
**Pull request by thomaskwaring**
This pull request extends the development of SKI combinatory logic — adding notions of evaluation and normal forms, and proving a version of [Rice's theorem](https://en.wikipedia.org/wiki/Rice%27s_theorem). The results and definitions are contained in the new file `CombinatoryLogic/Evaluation.lean`, which is based heavily on the [following development](https://gist.github.com/b-mehta/e412c837818223b8f16ca0b4aa19b166) by Bhavik Mehta.

### Notes

The definitions and results of this PR allows us to define normal-order evaluation as a `PFun`, in [the sense of Mathlib](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/PFun.html). The missing piece to make this useful is the so-called _Standardisation theorem_, saying that normal-order reduction will find a normal form, if there is one. The proof of Theorem T9 of Section C in _A Mathematical Logic Without Variables_ (Rosser, 1935) should be amenable to formalization. This would be very interesting, as it ought to define a surjection from SKI terms to, for instance, [partial recursive functions](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Computability/Partrec.html) on the natural numbers, demonstrating that SKI terms are Turing-complete.

### CODE REVIEW

**Comment by fmontesi** [comment]
There seem to be conflicts?

**Comment by thomaskwaring** [comment]
oops my mistake! i've fixed the conflicts but it doesn't want to build remotely (it goes through on my computer) i think because of the linter warnings — i'll come back to this soon but it seems to want no space after the transition arrows (ie `(P ⬝ Abs) ↠TT` instead of `(P ⬝ Abs) ↠ TT`) which seems strange

**Comment by chenson2018** [comment]
> it seems to want no space after the transition arrows (ie `(P ⬝ Abs) ↠TT` instead of `(P ⬝ Abs) ↠ TT`) which seems strange

Depending on how your terminal displays certain Unicode, what appears as roughly a single space after an arrow may actually be multiple spaces

**Comment by thomaskwaring** [comment]
Hmm I don't think that's it, it's definitely asking for no spaces. It's only complaining about hypotheses of the form "blank reduces to blank" (eg `hxz : x ↠z`), not for instance `hxt : ∃ x : SKI, (P ⬝ x) ↠ TT`, and not anywhere other than as hypotheses to a theorem. Anyway not a huge deal, just strange.

I expect it's because in the declaration
```notation3 t:39 " ⭢" $sym:str t':39 => (ReductionSystem.Red  $rs) t t'```
there's no space after the arrow, was that for any reason?

**Comment by chenson2018** [comment]
> I expect it's because in the declaration `notation3 t:39 " ⭢" $sym:str t':39 => (ReductionSystem.Red $rs) t t'` there's no space after the arrow, was that for any reason?

For this branch with a symbol after the arrow, I think this makes sense. I see though that for the notation without a symbol it is also like this, is that what is being linted for you? This should be changed, probably not noticed previously because we don't use it much.

**Comment by thomaskwaring** [comment]
> For this branch with a symbol after the arrow, I think this makes sense. I see though that for the notation without a symbol it is also like this, is that what is being linted for you? This should be changed, probably not noticed previously because we don't use it much.

Ahh yes you're absolutely right — I've changed it and replaced the spaces after the transitions now

File: Cslib/Languages/CombinatoryLogic/Evaluation.lean [hunk 1]
```diff
@@ -0,0 +1,312 @@
...
+
+## References
+
+This file draws heavily from <https://gist.github.com/b-mehta/e412c837818223b8f16ca0b4aa19b166>
+-/
+
+open SKI Red
+
+/-- The predicate that a term has no reducible sub-terms. -/
+def RedexFree : SKI → Prop
```
Comment (fmontesi) [inline Cslib/Languages/CombinatoryLogic/Evaluation.lean:43]: Maybe `SKI.RedexFree`, to enable dot notation?

File: Cslib/Languages/CombinatoryLogic/Evaluation.lean [hunk 2]
```diff
@@ -0,0 +1,312 @@
...
+  | S ⬝ _ ⬝ _ ⬝ _ => False
+  | K ⬝ _ ⬝ _ ⬝ _ => False
+  | I ⬝ _ ⬝ _ ⬝ _ => False
+  | a ⬝ b ⬝ c ⬝ d ⬝ e => RedexFree (a ⬝ b ⬝ c ⬝ d) ∧ RedexFree e
+
+/--
+One-step evaluation as a function: either it returns a term that has been reduced by one step,
+or a proof that the term is redex free. Uses normal-order reduction.
+-/
+def evalStep : (x : SKI) → PLift (RedexFree x) ⊕ SKI
```
Comment (fmontesi) [inline Cslib/Languages/CombinatoryLogic/Evaluation.lean]: `SKI.evalStep`, and similar every time it makes sense to have dot notation.

File: Cslib/Languages/CombinatoryLogic/Evaluation.lean [hunk 3]
```diff
@@ -0,0 +1,324 @@
...
+
+/--
+If `x` reduces to both `y` and `z`, and both `y` and `z` are in normal form, then they are equal.
+-/
+lemma unique_normal_form {x y z : SKI}
+    (hxy : x ↠ y) (hxz : x ↠ z) (hy : y.RedexFree) (hz : RedexFree z) : y = z :=
+  (redexFree_iff'.1 hy _).1 (confluent_redexFree hxy hxz hz)
+
+/-- If `x` and `y` are normal and have a common reduct, then they are equal. -/
+lemma unique_normal_form' {x y : SKI} (h : CommonReduct x y)
```
Comment (chenson2018) [inline Cslib/Languages/CombinatoryLogic/Evaluation.lean]: Is there a more descriptive name we could use here and below instead of a primed name?

Comment (thomaskwaring) [reply Cslib/Languages/CombinatoryLogic/Evaluation.lean]: good point, thanks

**Comment by fmontesi** [comment]
Hi @thomaskwaring,
I think this is cooked enough now and would like to merge it, but I still get some weird diffs from old commits. Could I ask you to do a rebase, perhaps?

**Comment by thomaskwaring** [comment]
> Hi @thomaskwaring, I think this is cooked enough now and would like to merge it, but I still get some weird diffs from old commits. Could I ask you to do a rebase, perhaps?

Thanks! I'm doing that now — sorry for the noise I'm not much up on my git-yoga

File: docs/lake-manifest.json
Comment (fmontesi) [inline docs/lake-manifest.json:1]: Why this change, and in the next lake-manifest.json as well?

Otherwise this looks ready to me. 👍

Comment (thomaskwaring) [reply docs/lake-manifest.json:1]: that is strange, probably some git chaos when i was learning how to rebase — i'm endeavouring to fix it now, thanks

Comment (thomaskwaring) [reply docs/lake-manifest.json:1]: hmm i've matched up those changes and it builds on my machine, but it would appear not remotely — any idea why that might be?

Comment (fmontesi) [reply docs/lake-manifest.json:1]: Could it have something to do with the introduction of the `Cslib` namespace?

Comment (thomaskwaring) [reply docs/lake-manifest.json:1]: ahh good catch, should be good to go now

Comment (chenson2018) [reply docs/lake-manifest.json:1]: I am still seeing the manifest in the file diff.

Comment (thomaskwaring) [reply docs/lake-manifest.json:1]: oh strange, thanks for fixing

Comment (chenson2018) [reply docs/lake-manifest.json:1]: No problem. For reference, what I did was run `git checkout main -- lake-manifest.json` to make sure I got exactly the file from the main branch.

**Comment by chenson2018** [comment]
I find it mildly remarkable that there isn't a merge conflict here. Because @Shreyas4991 consistently added the namespace at the very top and bottom of each file, it's able to be merged automatically.

File: Cslib/Foundations/Semantics/ReductionSystem/Basic.lean [hunk 4]
```diff
@@ -46,11 +46,15 @@ open Relation Relation.ReflTransGen
...
+instance (rs : ReductionSystem Term) : Transitive rs.MRed := transitive_of_trans rs.MRed
+instance (rs : ReductionSystem Term) : Trans rs.MRed rs.MRed rs.MRed := instTransOfIsTrans
+
 end MultiStep
 
 open Lean Elab Meta Command Term
 
--- thank you to Kyle Miller for this: 
+-- thank you to Kyle Miller for this:
 -- https://leanprover.zulipchat.com/#narrow/channel/239415-metaprogramming-.2F-tactics/topic/Working.20with.20variables.20in.20a.20command/near/529324084
```
Comment (Shreyas4991) [inline Cslib/Foundations/Semantics/ReductionSystem/Basic.lean:58]: I recommend using a single multi line comment and a proper markdown formatted link, in case this ever becomes part of a docstring in the future. I am also not sure it is a great idea to put reference links in comments to Zulip discussions. I understand the urge to cite but maybe the better to do this is in the GitHub pull request page as a comment.

File: Cslib/Foundations/Semantics/ReductionSystem/Basic.lean [hunk 5]
```diff
@@ -94,19 +98,19 @@ elab "create_reduction_sys" rel:ident name:ident : command => do
...
 syntax "reduction_notation" ident (str)? : command
 macro_rules
-  | `(reduction_notation $rs $sym) => 
+  | `(reduction_notation $rs $sym) =>
     `(
       notation3 t:39 " ⭢" $sym:str t':39 => (ReductionSystem.Red  $rs) t t'
       notation3 t:39 " ↠" $sym:str t':39 => (ReductionSystem.MRed $rs) t t'
      )
-  | `(reduction_notation $rs) => 
+  | `(reduction_notation $rs) =>
```
Comment (Shreyas4991) [inline Cslib/Foundations/Semantics/ReductionSystem/Basic.lean:106]: I recommend generating and using scoped notation here. These symbols are used very often in various areas of CS. I also recommend using an enclosing namespace like SKI for all files in this folder which occurs just below the Cslib namespace.

File: Cslib/Languages/CombinatoryLogic/Basic.lean [hunk 6]
```diff
@@ -165,63 +165,63 @@ choose a descriptive name.
 def RPoly : SKI.Polynomial 2 := &1 ⬝' &0
 /-- A SKI term representing R -/
 def R : SKI := RPoly.toSKI
-theorem R_def (x y : SKI) : R ⬝ x ⬝ y ⇒* y ⬝ x :=
+theorem R_def (x y : SKI) : (R ⬝ x ⬝ y) ↠ y ⬝ x :=
```
Comment (Shreyas4991) [inline Cslib/Languages/CombinatoryLogic/Basic.lean:170]: This bracket shouldn't be necessary. This could possibly be fixed by adapting the notation priority of the notation it is replacing. But I could be wrong. Worth checking it up.

File: Cslib/Languages/CombinatoryLogic/Basic.lean [hunk 7]
```diff
@@ -239,29 +239,29 @@ rather than up to a common reduct. An alternative is to use Turing's fixed-point
 (defined below).
 -/
 def fixedPoint (f : SKI) : SKI := H ⬝ f ⬝ (H ⬝ f)
-theorem fixedPoint_correct (f : SKI) : f.fixedPoint ⇒* f ⬝ f.fixedPoint := H_def f (H ⬝ f)
+theorem fixedPoint_correct (f : SKI) : f.fixedPoint ↠ f ⬝ f.fixedPoint := H_def f (H ⬝ f)
 
 /-- Auxiliary definition for Turing's fixed-point combinator: ΘAux := λ x y. y (x x y) -/
 def ΘAuxPoly : SKI.Polynomial 2 := &1 ⬝' (&0 ⬝' &0 ⬝' &1)
```
Comment (Shreyas4991) [inline Cslib/Languages/CombinatoryLogic/Basic.lean]: I recommend against using Unicode characters in identifiers. This makes them hard to search on the docs page which doesn't Unicode input in the search bar. This is also true for the Ctrl + F and Ctrl + Shift + F find and replace  interfaces of VScode.

File: Cslib/Languages/CombinatoryLogic/Evaluation.lean [hunk 8]
```diff
@@ -0,0 +1,328 @@
...
+
+lemma sk_nequiv : ¬ CommonReduct S K := by
+  intro ⟨z, hsz, hkz⟩
+  have hS : RedexFree S := by simp [RedexFree]
+  have hK : RedexFree K := by simp [RedexFree]
+  cases (redexFree_iff_mred_eq.1 hS z).1 hsz
+  cases (redexFree_iff_mred_eq.1 hK _).1 hkz
+
+/-- Injectivity for booleans. -/
+theorem isBool_injective (x y : SKI) (u v : Bool) (hx : IsBool u x) (hy : IsBool v y)
```
Comment (Shreyas4991) [inline Cslib/Languages/CombinatoryLogic/Evaluation.lean:219]: When you are referring to a definition `IsBool`, the theorem of this should also ideally be named `IsBool_injective`. Again this is beneficial in search.

File: Cslib/Languages/CombinatoryLogic/Evaluation.lean [hunk 9]
```diff
@@ -0,0 +1,328 @@
...
+@[simp]
+lemma churchK_size : (n : Nat) → (churchK n).size = n+1
+  | 0 => rfl
+  | n + 1 => by rw [churchK, size, size, churchK_size, Nat.add_comm]
+
+lemma churchK_injective : Function.Injective churchK :=
+  fun n m h => by simpa using congrArg SKI.size h
+
+/-- Injectivity for Church numerals -/
+theorem isChurch_injective (x y : SKI) (n m : Nat) (hx : IsChurch n x) (hy : IsChurch m y)
```
Comment (Shreyas4991) [inline Cslib/Languages/CombinatoryLogic/Evaluation.lean:271]: Same comment as `isBool_injective`

**Comment by Shreyas4991** [comment]
Some of my review comments might need discussion on Zulip and collective decisions. I recommend merging in the main branch into this branch, before merging this PR because namespace related issues for identifiers could still bite. 

EDIT: I highly recommend an 'SKI` or `CombinatoryLogic` namespace under the `Cslib` namespace to enable scoping all notation here.

File: Cslib/Languages/CombinatoryLogic/Evaluation.lean (hunk 8 above)
Comment (thomaskwaring) [reply Cslib/Languages/CombinatoryLogic/Evaluation.lean:219]: On this and others I was following [mathlib conventions](https://leanprover-community.github.io/contribute/naming.html), see point 5 of general conventions "When something named with `UpperCamelCase` is part of something named with `snake_case`, it is referenced in `lowerCamelCase`.

Comment (Shreyas4991) [reply Cslib/Languages/CombinatoryLogic/Evaluation.lean:219]: Ok fair

File: Cslib/Foundations/Semantics/ReductionSystem/Basic.lean (hunk 4 above)
Comment (chenson2018) [reply Cslib/Foundations/Semantics/ReductionSystem/Basic.lean:58]: The formatting suggestion is fine, but I disagree about not linking to Zulip discussions. Both Mathlib (and even core in tests) have links to the Zulip. Is there a particular harm you have in mind of including links that outweighs the ease of discoverability?

File: Cslib/Foundations/Semantics/ReductionSystem/Basic.lean (hunk 5 above)
Comment (chenson2018) [reply Cslib/Foundations/Semantics/ReductionSystem/Basic.lean:106]: Yes, this is probably a good idea. There was a concern previously about if the attribute were used outside a namespace.

Comment (thomaskwaring) [reply Cslib/Foundations/Semantics/ReductionSystem/Basic.lean:106]: the diffs here are bc of my git errors — perhaps these edits outside of the `CombinatoryLogic/*` section could be a separate PR?

File: Cslib/Languages/CombinatoryLogic/Basic.lean (hunk 6 above)
Comment (thomaskwaring) [reply Cslib/Languages/CombinatoryLogic/Basic.lean:170]: I agree, but the notation is used elsewhere so perhaps this is something to be fixed in a broader PR after this is merged?

File: Cslib/Languages/CombinatoryLogic/Basic.lean (hunk 7 above)
Comment (thomaskwaring) [reply Cslib/Languages/CombinatoryLogic/Basic.lean]: good call, thanks! fixed now

**Comment by chenson2018** [comment]
> EDIT: I highly recommend an 'SKI`or`CombinatoryLogic`namespace under the`Cslib` namespace to enable scoping all notation here.

There is an `SKI` namespace already, right? But yes, a pass to scope notations would be good.

File: Cslib/Foundations/Semantics/ReductionSystem/Basic.lean (hunk 4 above)
Comment (Shreyas4991) [reply Cslib/Foundations/Semantics/ReductionSystem/Basic.lean:58]: It has been discouraged in the past. Also if you do wish to make citation style comments, it might help to put it as a note in the module docstring. A comment in the middle of the code is harder to discover.

File: Cslib/Languages/CombinatoryLogic/Basic.lean (hunk 6 above)
Comment (Shreyas4991) [reply Cslib/Languages/CombinatoryLogic/Basic.lean:170]: If this notation is scoped then it should only be used in other places where the SKI namespace is opened. Surely this is fixable then?

**Comment by thomaskwaring** [comment]
> There is an `SKI` namespace already, right?

Yes there is, but I was a bit inconsistent with it — fixed now & added the `Cslib` namespace to my branch

File: Cslib/Languages/CombinatoryLogic/Basic.lean (hunk 6 above)
Comment (thomaskwaring) [reply Cslib/Languages/CombinatoryLogic/Basic.lean:170]: the notation `↠` is generated by the meta code in `Cslib/Foundations/Semantics/ReductionSystem/Basic`, which is used elsewhere

File: Cslib/Foundations/Semantics/ReductionSystem/Basic.lean (hunk 5 above)
Comment (chenson2018) [reply Cslib/Foundations/Semantics/ReductionSystem/Basic.lean:106]: Yes, don't let any of this discussion outside the scope of your PR hold it up.

File: Cslib/Languages/CombinatoryLogic/Basic.lean (hunk 6 above)
Comment (chenson2018) [reply Cslib/Languages/CombinatoryLogic/Basic.lean:170]: Yes, changing the precedence of notations for `ReductionSystem` and `LTS` has been on my TODO list. I just opened #109 to track, but as you say let's do this in a follow-up PR.

File: Cslib/Languages/CombinatoryLogic/Defs.lean [hunk 10]
```diff
@@ -72,74 +82,75 @@ inductive Red : SKI → SKI → Prop where
...
 
-instance MRedRedTrans : Trans MRed Red MRed :=
-  ⟨fun hab hbc => Relation.ReflTransGen.trans hab (MRed.single hbc)⟩
+-- instance MRedRedTrans : Trans MRed Red MRed :=
+--   ⟨fun hab hbc => Relation.ReflTransGen.trans hab (MRed.single hbc)⟩
 
-instance RedMRedTrans : Trans Red Red MRed :=
-  ⟨fun hab hbc => Relation.ReflTransGen.trans (MRed.single hab) (MRed.single hbc)⟩
+-- instance RedMRedTrans : Trans Red Red MRed :=
+--   ⟨fun hab hbc => Relation.ReflTransGen.trans (MRed.single hab) (MRed.single hbc)⟩
```
Comment (chenson2018) [inline Cslib/Languages/CombinatoryLogic/Defs.lean]: Can you remove these commented out instances?

File: Cslib/Foundations/Semantics/ReductionSystem/Basic.lean (hunk 4 above)
Comment (chenson2018) [reply Cslib/Foundations/Semantics/ReductionSystem/Basic.lean:58]: It's not really just a citation, I linked to the thread because it explains why there's complexity with the metaprogramming. I don't want it in the proper documentation, but I personally like having it next to the relevant elab.

Regarding Zulip links generally, I would need to see the argument against to respond properly. Let's continue any further discussion on Zulip, this was already out of scope for this PR (it only appears in the diff because of a whitespace fix)

File: Cslib/Languages/CombinatoryLogic/Defs.lean (hunk 10 above)
Comment (thomaskwaring) [reply Cslib/Languages/CombinatoryLogic/Defs.lean]: done!

**Comment by thomaskwaring** [comment]
gentle ping @fmontesi, I think I've addressed everything (correct me?) if you think this is merge-ready?
